US04016170
A solution of 6.16 g. (0.022 mole) o-(3-phenyl-1,2,4-oxadiazol-5-yl)-benzoic acid methyl ester in 150 milliliters ether is treated with 150 milliliters 40 percent methyl amine in water. The resulting two-phase system is stirred vigorously for 19 hours. The ether is evaporated, and the resulting mixture extracted with methylene chloride. The organic phase is washed with water and then brine, dried over anhydrous magnesium sulfate, filtered, and evaporated in vacuo. The resulting solid is triturated with ether and filtered to give o-(3-phenyl-1,2,4-oxadiazol-5-yl)-N-methyl benzamide, m.p. 145°-146° C.

reactant | o-(3-phenyl-1,2,4-oxadiazol-5-yl)-benzoic acid methyl ester | 0.022 mole | COC(C1=C(C=CC=C1)C1=NC(=NO1)C1=CC=CC=C1)=O | C16H12N2O3
reactant | methyl amine | 150 milliliters | CN | CH5N
solvent | ether | 150 milliliters | CCOCC | C4H10O
solvent | water | O | H2O
product | o-(3-phenyl-1,2,4-oxadiazol-5-yl)-N-methyl benzamide | C1(=CC=CC=C1)C1=NOC(=N1)C1=C(C(=O)NC)C=CC=C1 | C16H13N3O2
